US06165481
A tubular reactor of 1.2 cm in inner diameter and 10 cm in length was packed with 10 g of carrier-supported nickel catalyst. Hydrogenation was carried out by feeding into the reactor the n-hexane solution of squalene and hydrogen gas to obtain a squalane solution in n-hexane. Samples were taken out for 30 hours after the temperature was stabilized at 200° C.

reactant | squalene | CC(C)=CCC\C(\C)=C\CC\C(\C)=C\CC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | C30H50
reactant | hydrogen | [H][H] | H2
catalyst | nickel | 10 g | [Ni] | Ni
solvent | n-hexane | CCCCCC | C6H14
product | squalane | CC(C)CCCC(C)CCCC(C)CCCCC(C)CCCC(C)CCCC(C)C | C30H62
